US04698329
3.78 g (0.0318 mole) of thionyl chloride were added dropwise at -5° C. to 10.2 g (0.318 mole) of methanol. After 5 minutes, 3.3 g (0.0159 mole) of 3-(2-thienyl)-DL-alanine hydrochloride were added gradually to this solution, whilst keeping the temperature at -5° C. The mixture was then stirred for 3 hours at this temperature, and then left standing for 24 hours at room temperature. The reaction product was then condensed by evaporation under reduced pressure, and ethanol was added to the residue. The mixture was then condensed by evaporation under reduced pressure and 3.53 g (yield 100%) of 3-(2-thienyl)-DL-alanine methyl ester hydrochloride melting at 110°-112° C. were obtained as the residue.

reactant | thionyl chloride | 0.0318 mole, 3.78 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 0.318 mole | CO | CH4O
reactant | 3-(2-thienyl)-DL-alanine hydrochloride | 0.0159 mole, 3.3 g | Cl.S1C(=CC=C1)CC(N)C(=O)O
product | 3-(2-thienyl)-DL-alanine methyl ester hydrochloride | 3.53 g, yield 100% | Cl.COC(C(N)CC=1SC=CC1)=O | InChI=1S/C8H11NO2S.ClH/c1-11-8(10)7(9)5-6-3-2-4-12-6;/h2-4,7H,5,9H2,1H3;1H
